US08729102B2
C) 4-ethoxy-2-nitrobenzaldehyde
A mixture of 1-(bromomethyl)-4-ethoxy-2-nitrobenzene (11.3 g), 4-methylmorpholine N-oxide (10.1 g), molecular sieves 4A (11 g) and acetonitrile (220 ml) was stirred under an argon atmosphere at room temperature for 1 hr. The reaction mixture was filtered through celite, and the solvent of the filtrate was evaporated under reduced pressure. The residue was diluted with ethyl acetate, and the mixture was washed twice with water. The separated aqueous layer was extracted again with ethyl acetate. The combined organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound as a yellow solid (5.65 g).

reactant | 1-(bromomethyl)-4-ethoxy-2-nitrobenzene | 11.3 g | BrCC1=C(C=C(C=C1)OCC)[N+](=O)[O-] | C9H10BrNO3
reactant | 4-methylmorpholine N-oxide | 10.1 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | acetonitrile | 220 ml | C(C)#N | C2H3N
product | 4-ethoxy-2-nitrobenzaldehyde | 5.65 g | C(C)OC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C9H9NO4
